US07923450B2
b) [4-(2,4-Dimethyl-oxazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
A solution of [4-(2,4-dimethyl-oxazol-5-yl)-phenyl]-thiourea (124 mg, 0.50 mmol) and 2-bromo-6-phenyl-cyclohexanone (139 mg, 0.55 mmol) in ethanol (5 ml) was heated to reflux over night. The precipitated solid was filtered off after cooling to room temperature and dried to yield the title compound (170 mg, 85%) as a light brown solid. MS ISP (m/e): 402.2 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.37 (br s, 1H, NH), 7.53 (d, 2H), 7.42 (d, 2H), 7.30 (t, 2H), 7.20 (t, 1H), 7.12 (d, 1H), 4.05 (m, 1H), 2.72 (m, 2H), 2.39 (s, 3H), 2.24 (s, 3H), 2.12 (m, 1H), 1.70-1.88 (m, 3H).

reactant | [4-(2,4-dimethyl-oxazol-5-yl)-phenyl]-thiourea | 0.50 mmol, 124 mg | CC=1OC(=C(N1)C)C1=CC=C(C=C1)NC(=S)N | C12H13N3OS
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.55 mmol, 139 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | [4-(2,4-Dimethyl-oxazol-5-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | 170 mg, 85% | CC=1OC(=C(N1)C)C1=CC=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C24H23N3OS
